US08304419B2
To a solution of 3-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-5-(trifluoromethyl)benzonitrile (12.2 g, 37.0 mmol) and N-bromosuccinimide (6.59 g, 37.0 mmol) in carbon tetrachloride (300 mL) was added AIBN (0.304 g, 1.850 mmol) and the mixture was stirred at 75° C. for 4 hours. More AIBN (0.304 g, 1.850 mmol) was added and the reaction mixture was stirred overnight at 75° C. The mixture was filtered through a pad of Celite and the filtrate was concentrated. The crude oil was purified via silica gel chromatography to give 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (7.33 g, 17.94 mmol, 49% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.63 (s, 1H), 7.42 (s, 1H), 7.31-7.36 (m, 2H), 7.24 (d, 1H), 4.48 (s, 2H).

reactant | 3-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-5-(trifluoromethyl)benzonitrile | 37.0 mmol, 12.2 g | ClC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)C(F)(F)F)F)C | C15H8ClF4NO
reactant | N-bromosuccinimide | 37.0 mmol, 6.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 1.850 mmol, 0.304 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | AIBN | 1.850 mmol, 0.304 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 17.94 mmol, 7.33 g, 49% yield | BrCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H7BrClF4NO
